US04931455
Synthesis of dl-5-chloro-6-ethyl-4-(1-ethyl-7-hydroxyheptyl)aminopyrimidine (Compound No. 47)
In 50 ml of ethanol was dissolved 4.7 g of dl-5-chloro-6-ethyl-4-[1-ethyl-7-(1-ethoxyethoxy)heptyl]aminopyrimidine, and 10 ml of 1N-HCl was added to the solution and the mixture was refluxed for one hour under stirring After removing ethanol under reduced pressure, the residue was was made alkaline with a sodium hydroxide aqueous solution and was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and the solvent was removed under reduced pressure. The resulting oily product was isolated through a column chromatography (Wako gel C-200, trade name, eluent; toluene:ethyl acetate=2:1) to give 3.8 g of the title compound as pale yellow oily liquid. nD23.0 1.5263.

reactant | dl-5 chloro-6-ethyl-4-[1-ethyl-7-(1-ethoxyethoxy)heptyl]aminopyrimidine | 4.7 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.ClC1=NC(=CC(=N1)NC(CCCCCCOC(C)OCC)CC)CC
reactant | HCl | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | dl-5 chloro-6-ethyl-4-(1-ethyl-7-hydroxyheptyl)aminopyrimidine | 3.8 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.ClC1=NC(=CC(=N1)NC(CCCCCCO)CC)CC | InChI=1S/C18H34N4O2.C15H26ClN3O/c1-24-18-14-16(6-7-17(18)23)15-22-13-5-12-21-10-3-2-9-20-11-4-8-19;1-3-12(9-7-5-6-8-10-20)17-14-11-13(4-2)18-15(16)19-14/h6-7,14,20-23H,2-5,8-13,15,19H2,1H3;11-12,20H,3-10H2,1-2H3,(H,17,18,19)
